US07973078B2
1.00 g of 3-chloro-2-methylaniline was dissolved in 10 mL of hexamethylphosphoramide, and 1.80 g of sodium hydrogen carbonate and 1.19 g of methyl 3-bromopropionate sequentially were added thereto, followed by stirring at room temperature for 4 hours. To the reaction liquid was added water, followed by extraction with diisopropyl ether. The organic layer was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5 to 85:25) to obtain 0.92 g of methyl N-(3-chloro-2-methylphenyl)-β-alanine.

reactant | 3-chloro-2-methylaniline | 1.00 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | sodium hydrogen carbonate | 1.80 g | C(O)([O-])=O.[Na+]
reactant | methyl 3-bromopropionate | 1.19 g | BrCCC(=O)OC | C4H7BrO2
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 10 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl N-(3-chloro-2-methylphenyl)-β-alanine | 0.92 g | CN(CCC(=O)O)C1=C(C(=CC=C1)Cl)C | C11H14ClNO2
